US09169259B2
A mixture of 4-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid (47 mg, 0.12 mmol), 2-(pyridin-4-yl)ethanamine (16 mg, 0.132 mmol), HATU (50 mg, 0.132 mmol), DIPEA (18 mg, 0.144 mmol), DMAP (18 mg, 0.144 mmol) and EDCI (28 mg, 0.144 mmol) in DMF (3 mL) was stirred at room temperature for 16 h. Ethyl acetate (50 mL) was added then the mixture was washed with water (2×2 mL) and brine (2×2 mL), then dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was washed with ether and filtered to afford 4-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)-N-(2-(pyridin-4-yl)ethyl)benzamide (43 mg, 72%) as a yellow solid. 1H NMR (300 MHz, DMSO): δ 9.96 (s, 1H), 8.71 (t, 1H, J=5.4 Hz), 8.53-8.46 (m, 3H), 8.21 (s, 1H), 8.03-7.94 (m, 4 h), 7.67 (s, 1H), 7.42 (d, 1H, J=8.4 Hz), 7.29-7.27 (m, 2H), 7.11 (d, 1H, J=8.4 Hz), 4.01 (s, 3H), 3.78 (s, 3H), 3.60-3.54 (m, 2H), 2.90 (t, 2H, J=7.2 Hz). LC-MS: [M+H]+, 496, tR=1.226 min, HPLC: 98.86% at 214 nm, 98.46% at 254 nm, tR=3.144 min.

reactant | 4-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid | 0.12 mmol, 47 mg | COC=1C=CC(=NC1OC)NC=1C=2N(N=C(C1)C1=CC=C(C(=O)O)C=C1)C=CN2 | C20H17N5O4
reactant | 2-(pyridin-4-yl)ethanamine | 0.132 mmol, 16 mg | N1=CC=C(C=C1)CCN | C7H10N2
reactant | HATU | 0.132 mmol, 50 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.144 mmol, 18 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 0.144 mmol, 28 mg | CCN=C=NCCCN(C)C | C8H17N3
catalyst | DMAP | 0.144 mmol, 18 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 4-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)-N-(2-(pyridin-4-yl)ethyl)benzamide | 43 mg, 72% | COC=1C=CC(=NC1OC)NC=1C=2N(N=C(C1)C1=CC=C(C(=O)NCCC3=CC=NC=C3)C=C1)C=CN2 | C27H25N7O3
